US07517987B2
Step A: (S)-2-(2-Oxo-2H-pyrid-1-yl)-propionic acid ethyl ester.
A stirred solution of 1H-Pyridin-2-one (500 mg, 5.26 mmol) in anhydrous THF (50 ml) at room temperature was treated portionwise with 60% NaH (231 mg, 5.78 mmol). The reaction mixture was kept for 10 min then added over 5 min to a solution of (R)-2-trifluoromethanesulfonyloxy)-propionic acid ethyl ester (1315 mg, 5.26 mmol) in anhydrous THF (2.5 ml) at room temperature. The resulting mixture was stirred for 2 h, then concentrated. The residue was dissolved in ethyl acetate, and the resulting solution was washed with ice cold dilute HCl. The organic layer was removed and the aqueous layer re-extracted with ethyl acetate. The combined organic extracts were dried (MgSO4), filtered and concentrated. The residue was purified by flash chromatography (20% up to 80% ethyl acetate in hexane) to afford the title compound as a yellow oil (480 mg, 46%): [α]27D=−56.40° (c=0.275, CH2Cl2) 1H NMR (400 MHz CDCl3) δ 1.3 3H, t), 1.65 3H, d), 4.2 2H, q), 5.6 1H, q), 6.2 1H, t), 6.4 1H, d), 7.2-7.3 2H, m).

reactant | 1H-Pyridin-2-one | 5.26 mmol, 500 mg | N1C(C=CC=C1)=O | C5H5NO
reactant | NaH | 5.78 mmol, 231 mg | [H-].[Na+]
reactant | propionic acid ethyl ester | 5.26 mmol, 1315 mg | C(C)OC(CC)=O | C5H10O2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 2.5 ml | C1CCOC1 | C4H8O
product | (S)-2-(2-Oxo-2H-pyrid-1-yl)-propionic acid ethyl ester | 480 mg, 46% | C(C)OC([C@H](C)N1C(C=CC=C1)=O)=O | C10H13NO3
